US06297375B1
d) N-Methyl-6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide
A suspension of 4.00 g (11.1 mmol) 4-iodo-N-methyl-6-(4-methyl-piperzin-1-yl)-nicotinamide and 642 mg (0.555 mmol) tetrakis(triphenylphosphine)palladium(0) in 60 ml toluene was dioxygenated with a stream of argon for 30 min. After addition of 11 ml of a 2 N aqueous solution of sodium carbonate and 1.66 g (12.2 mmol) o-tolylboronic acid, the mixture was heated at reflux overnight. Cooling to room temperature was followed by dilution with water and extraction with three 50 ml portions of ethyl acetate. The aqueous layer was saturated with sodium chloride and extracted with three 50 ml portions of dichloromethane. The combined organic layers were dried with sodium sulfate and concentrated. Column chromatography afforded 2.26 g (63%) of the title compound.

reactant | 4-iodo-N-methyl-6-(4-methyl-piperzin-1-yl)-nicotinamide | 11.1 mmol, 4.00 g | IC1=CC(=NC=C1C(=O)NC)N1CCN(CC1)C | C12H17IN4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-tolylboronic acid | 12.2 mmol, 1.66 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.555 mmol, 642 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Methyl-6-(4-methyl-piperazin-1-yl)-4-o-tolyl-nicotinamide | 2.26 g, 63% | CNC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCN(CC1)C)=O | C19H24N4O
